US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)butyramide
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (30 mg, 0.11 mmol) and butyric acid (22.0 mg, 0.25 mmol) were mixed in THF (3 ml). Carbodiimde resin (295 mg, 0.31 mmol) was added and shaking continued for 72 h. The reaction was filtered, the resin washed with THF and methanol and the combined filtrate and washings filtered through an SPE (SCX), to give, after evaporation of the solvent under vacuum, N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)butyramide. NMR; δH [2H6]—DMSO 9.85,(1H, s), 8.60,(1H, t), 7.91,(2H, d), 7.50-7.49,(2H, m), 7.40,(2H, d), 7.21,(1H, d), 3.16,(2H, t), 2.25,(2H, t), 2.15,(3H, s), 1.59,(2H, m), 1.04,(1H, m), 0.89,(3H, t), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.14 min, MH+351.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.11 mmol, 30 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | butyric acid | 0.25 mmol, 22.0 mg | C(CCC)(=O)O | C4H8O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)butyramide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(CCC)=O | C22H26N2O2
